US08217035B2
6-Hydroxy-3-nitroquinoline (148 mg, 0.78 mmol) was dissolved in THF (18 mL). 2-(Pyrrolidin-1-yl)ethanol (0.091 mL, 0.78 mmol) and triphenylphosphine (306 mg, 1.17 mmol) were added. Lastly, diethyl azodicarboxylate (0.184 mL, 1.17 mmol) was added and the reaction mixture was allowed to stir at room temperature for 2 hours. The solvent was then concentrated in vacuo and the residue was purified by flash chromatography (SiO2) to yield 134 mg (60%) of 3-nitro-6-(2-(pyrrolidin-1-yl)ethoxy)quinoline. LC/MS (m/z): 288.1 (MH+), Rt 1.80 minutes.

reactant | 6-Hydroxy-3-nitroquinoline | 0.78 mmol, 148 mg | OC=1C=C2C=C(C=NC2=CC1)[N+](=O)[O-] | C9H6N2O3
reactant | 2-(Pyrrolidin-1-yl)ethanol | 0.78 mmol, 0.091 mL | N1(CCCC1)CCO | C6H13NO
reactant | triphenylphosphine | 1.17 mmol, 306 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.17 mmol, 0.184 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 18 mL | C1CCOC1 | C4H8O
product | 3-nitro-6-(2-(pyrrolidin-1-yl)ethoxy)quinoline | 134 mg, 60% | [N+](=O)([O-])C=1C=NC2=CC=C(C=C2C1)OCCN1CCCC1 | C15H17N3O3
